US08895566B2
10% Pd/C (6 mg) was added to a solution of N-((S)-1-azido-3-(2,4-dichlorophenyl)propan-2-yl)-5-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxamide (59 mg, 0.121 mmol) in methanol (2.5 mL). The solution was put under vacuum and purged with H2 (3×), and then the reaction mixture was stirred under a hydrogen atmosphere for 2 hours. LC-MS analysis of the reaction mixture showed no more starting material. The reaction mixture was filtered and concentrated to yield N-((S)-1-amino-3-(2,4-dichlorophenyl)propan-2-yl)-5-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxamide as a foam (53 mg, 95%). m/z 461 (M+); 1H NMR (DMSO d6) δ (ppm) 8.91 (s, 1H), 8.58-8.56 (m, 1H), 7.90 (br s, 2H), 7.84 (d, 1H, J=4.3 Hz), 7.78 (d, 1H, J=4.1 Hz), 7.60 (m, 1H), 7.39-7.33 (m, 2H), 4.55-4.42 (m, 1H), 3.87-3.77 (m, 1H), 3.19-2.84 (m, 6H), 2.33-2.26 (m, 1H), 1.88-1.82 (m, 1H), 1.18 (d, 3H, J=6.9 Hz).

reactant | N-((S)-1-azido-3-(2,4-dichlorophenyl)propan-2-yl)-5-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxamide | 0.121 mmol, 59 mg | N(=[N+]=[N-])C[C@H](CC1=C(C=C(C=C1)Cl)Cl)NC(=O)C=1SC(=CC1)C=1C2=C(N=CN1)CC[C@H]2C | C22H20Cl2N6OS
solvent | methanol | 2.5 mL | CO | CH4O
catalyst | Pd/C | 6 mg | [Pd] | Pd
product | N-((S)-1-amino-3-(2,4-dichlorophenyl)propan-2-yl)-5-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxamide | 53 mg, 95% | NC[C@H](CC1=C(C=C(C=C1)Cl)Cl)NC(=O)C=1SC(=CC1)C=1C2=C(N=CN1)CC[C@H]2C | C22H22Cl2N4OS
